US07432227B2
A solution of 4-amino-3,6-dichloropyridine-2-carboxylic acid (1100 g, 5.31 mol), 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octanebis(tetrafluoroborate) (2100 g, 5.93 mol) in water (6000 mL) was warmed to 65° C. for six hours. After cooling to ambient temperature, the reaction mixture was stirred an additional 18 hours. The solution was concentrated and the resulting solid washed with 6 N hydrochloric acid (5×1000 mL) and dried to give 4-amino-3,6-dichloro-5-fluoropyridine-2-carboxylic acid (757 g, 3.53 mol. 58% purity). This crude material was added to methanol (3000 mL) which had been saturated with anhydrous hydrogen chloride and the reaction mixture was warmed to 45° C. for 2 hours. The solution was added with vigorous stirring to ice water (4000 mL) and the resulting solid collected. The crude ester was dissolved in ethyl acetate (1000 mL) and washed with saturated sodium bicarbonate solution (2×1000 mL), dried, and concentrated. The resulting solid was recrystallized from ethyl acetate/hexanes to give methyl 4-amino-3,6-dichloro-5-fluoropyridine-2-carboxylate (402.5 g, 1.67 mol), mp 128-131° C.

reactant | 4-amino-3,6-dichloropyridine-2-carboxylic acid | 5.31 mol, 1100 g | NC1=C(C(=NC(=C1)Cl)C(=O)O)Cl | C6H4Cl2N2O2
reactant | 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octanebis(tetrafluoroborate) | 5.93 mol, 2100 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | water | 6000 mL | O | H2O
product | 4-amino-3,6-dichloro-5-fluoropyridine-2-carboxylic acid | 3.53 mol, 757 g, 58% | NC1=C(C(=NC(=C1F)Cl)C(=O)O)Cl | C6H3Cl2FN2O2
